US06329407B1
1 g of 2-bromo-5-chloroindan-1-one is stirred with 0.31 g of thioacetamide in 100 ml of acetone at room temperature for 5 h. The precipitate is filtered off with suction, washed with acetone and dried in vacuo. The hydrobromide is suspended in ethyl acetate and neutralized with triethylamine, and the ethyl acetate solution is washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. The free base is dissolved in tetrahydrofuran, and an excess of ethereal HCl is added to this solution. The mixture is stirred at room temperature for 2 h and then concentrated in vacuo. The residue (hydrochloride of 6-chloro-2-methyl-8,8a-dihydroindeno [1,2-d]thiazol-3a-ol) is heated under reflux in 30 ml of glacial acetic acid for 4 h. The solvent is removed in vacuo, the residue is stirred with diisopropyl ether and 6-chloro-2-methyl-8H-indeno[1,2-d]thiazole hydrochloride is obtained with a melting point of 135° C.

reactant | 2-bromo-5-chloroindan-1-one | 1 g | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
reactant | thioacetamide | 0.31 g | C(C)(=S)N | C2H5NS
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 6-chloro-2-methyl-8H-indeno[1,2-d]thiazole hydrochloride | Cl.ClC1=CC=2CC3=C(N=C(S3)C)C2C=C1 | InChI=1S/C11H8ClNS.ClH/c1-6-13-11-9-3-2-8(12)4-7(9)5-10(11)14-6;/h2-4H,5H2,1H3;1H
